US04209515
A mixture of 8.8 g (0.018 mole) of 1-(2-benzoyl-4-chlorophenyl)-5-(iodomethyl)-1H-1,2,4-triazole-3-carboxylic acid methyl ester and 3.5 ml (0.040 mole) of morpholine are stirred in 175 ml of methanol at 40° for 6 hours. The reaction mixture is thereupon concentrated in vacuo, water is added to the residue, and extraction is performed twice with methylene chloride. The organic phase is washed three times with water and once with saturated sodium chloride solution; it is dried over sodium sulphate and concentrated in vacuo. The residue is triturated with ether, whereupon the reaction product is obtained in crystalline form. After filtration with suction and drying in vacuo, there is obtained 1-(2-benzoyl-4-chlorophenyl)-5-(morpholinomethyl)-1H-1,2,4-triazole-3-carboxylic acid methyl ester, m.p. 165°-170°.

reactant | 1-(2-benzoyl-4-chlorophenyl)-5-(iodomethyl)-1H-1,2,4-triazole-3-carboxylic acid methyl ester | 0.018 mole, 8.8 g | COC(=O)C1=NN(C(=N1)CI)C1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O | C18H13ClIN3O3
reactant | morpholine | 0.040 mole, 3.5 ml | N1CCOCC1 | C4H9NO
solvent | methanol | 175 ml | CO | CH4O
product | 1-(2-benzoyl-4-chlorophenyl)-5-(morpholinomethyl)-1H-1,2,4-triazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C(=N1)CN1CCOCC1)C1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O | C22H21ClN4O4
